US06100272
Methyl 4'-(4,5-dihydro-2-oxoimidazol-1-yl)-2'-methylbiphenyl-4-carboxylate
This was prepared from N-(2-chloroethyl)-N'-(4'-methoxycarbonyl-2-methylbiphenyl-4-yl)urea (D17), following the procedure of Description 4. The product was isolated by dilution of the reaction mixture with water, filtration and drying. This gave the title compound as a cream solid (90%).

reactant | N-(2-chloroethyl)-N'-(4'-methoxycarbonyl-2-methylbiphenyl-4-yl)urea | ClCCNC(=O)NC1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C | C18H19ClN2O3
solvent | water | O | H2O
product | Methyl 4'-(4,5-dihydro-2-oxoimidazol-1-yl)-2'-methylbiphenyl-4-carboxylate | 90% | O=C1N(CCN1)C1=CC(=C(C=C1)C1=CC=C(C=C1)C(=O)OC)C | C18H18N2O3
